US06432949B1
N-(5-benzamido-2-chlorophenyl)quinoline6-carboxamide
Using an analogous procedure to that described in Example 7, quinoline-6-carboxylic acid was reacted with N-(3-amino4chlorophenyl)benzamide to give the title compound in 47% yield; NMR Spectrum: (DMSOd6) 7.57 (m, 6H), 7.75 (m, 1H), 7.95 (d, 2H), 8.15 (d, 1H), 8.17 (d, 1H), 8.55 (d, 1H), 8.78 (s, 1H), 9.01 (m, 1H), 10.33 (s, 1H), 10.44 (s, 1H); Mass Spectrum: M−H− 400.

reactant | quinoline-6-carboxylic acid | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | N-(3-amino4chlorophenyl)benzamide | NC=1C=C(C=CC1Cl)NC(C1=CC=CC=C1)=O | C13H11ClN2O
product | N-(5-benzamido-2-chlorophenyl)quinoline6-carboxamide | 47% yield | C(C1=CC=CC=C1)(=O)NC=1C=CC(=C(C1)NC(=O)C=1C=C2C=CC=NC2=CC1)Cl | C23H16ClN3O2
